US06498170B2
Benzyl-[1-(4-fluoro-benzenesulfonyl)-azetidin-3-yl]-carbamic acid tert-butyl ester
To a solution of azetidin-3-yl-benzyl-carbamic acid tert-butyl ester (0.20 g, 0.76 mmol) in dichloromethane (2 ml) was added triethylamine (0.15 g, 1.5 mmol) followed by 4-fluorobenzenesulfonyl chloride (0.17 g, 0.84 mmol). The mixture was stirred at room temperature for 18 h. It was then quenched with 50% sodium carbonate solution and the volatiles were evaporated. The residue was diluted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, and evaporated. The crude material was washed with hexanes to give 0.29 g of a colorless gum; MS (ES) m/z 420.9 (MH+); HRMS (FAB) Calcd. for C21H26FN2O4S (MH+): 421.1597, Found: 421.1633.

reactant | azetidin-3-yl-benzyl-carbamic acid tert-butyl ester | 0.76 mmol, 0.20 g | C(C)(C)(C)OC(N(CC1=CC=CC=C1)C1CNC1)=O | C15H22N2O2
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 0.84 mmol, 0.17 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Benzyl-[1-(4-fluoro-benzenesulfonyl)-azetidin-3-yl]-carbamic acid tert-butyl ester | 0.29 g | C(C)(C)(C)OC(N(C1CN(C1)S(=O)(=O)C1=CC=C(C=C1)F)CC1=CC=CC=C1)=O | C21H25FN2O4S
